US05659059
6.2 g (20 mmol) of 4-bromo-2,2'-difluoro-4'-propylbiphenyl was dripped into a mixture of 0.5 g of magnesium (21 mmol) and 50 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 50 ml THF solution of 4.0 g (20 mmol) of 4-n-pentyl-1-methoxy-1-silacyclohexane to obtain 4'-(trans-4-n-pentyl-1-silacyclohexyl)-2,2'-difluoro-4-propylbiphenyl. The silacyclohexane rings of this product were a mixture of trans isomers and cis isomers. They were separated by means of chromatography to obtain 6.4 g of the trans isomers (yield 80%).

reactant | 4-bromo-2,2'-difluoro-4'-propylbiphenyl | 20 mmol, 6.2 g | BrC1=CC(=C(C=C1)C1=C(C=C(C=C1)CCC)F)F | C15H13BrF2
reactant | magnesium | 21 mmol, 0.5 g | [Mg] | Mg
reactant | 4-n-pentyl-1-methoxy-1-silacyclohexane | 20 mmol, 4.0 g | C(CCCC)C1CC[SiH](CC1)OC | C11H24OSi
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4'-(trans-4-n-pentyl-1-silacyclohexyl)-2,2'-difluoro-4-propylbiphenyl | yield 80% | C(CCCC)[C@@H]1CC[Si@H](CC1)C1=CC(=C(C=C1)C1=C(C=C(C=C1)CCC)F)F | C25H34F2Si
